US05958942
iv) Synthesis of 4,5-dihydro-4-[4-(trifluoro-methanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-dihydrochloride
To a solution of 3.21 g (8.87 mmol) of 4,5-dihydro-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene in 10 ml of ethanol was added 2.0 ml of 12N HCl. The mixture was sufficiently blended. The solvent was distilled off under reduced pressure to leave 3.86 g of the desired compound (100%, colorless amorphous).

reactant | 4,5-dihydro-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene | 8.87 mmol, 3.21 g | FC(S(=O)(=O)NCCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | C14H17F3N4O2S
reactant | HCl | 12N, 2.0 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[4-(trifluoro-methanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-dihydrochloride | 3.86 g, 100% | Cl.Cl.FC(S(=O)(=O)NCCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | InChI=1S/C14H17F3N4O2S.2ClH/c15-14(16,17)24(22,23)19-6-1-2-7-20-9-11-4-3-5-13-18-8-12(10-20)21(11)13;;/h3-5,8,19H,1-2,6-7,9-10H2;2*1H
